datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:21]=[C:20]2[O]C(C)C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O]C(C)C([H])[S]1 10=20;20,21=21"
"[O:20]=[C:21](OC)O[H].C1=CC=CC=C1[O:10][Li]>>C1=CC=CC=C1[O+:10]([Li])[C:21]([O-:20])(OC)O[H] 10=21;21,20=20"
"[H][NH:10]C(CC)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C(C)=C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])/C(C)=C(C)\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"CC1C(O[C:20](N1CC)([O-:10])[O:21]C)C>>CC1C(O[C:20](=[O:10])N1CC)C.[O-:21]C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C([H])[NH]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[O-:10]C(CC)/C([H])=C([H])\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C([H])=C([H])C(CC)[O:10]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)C>>C1=CC=CC=C1N([C:20](=[O:10])OCCCCCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)[H])C>>CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)[H])[O-:10])C 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])[H])[H])C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C([O:21]1)[H])[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[OH:21][C:20]1(OCC)C([H])C(C)C([H])C([H])[OH+:10]1>>[OH:10]C([H])C([H])C(C)C([H])[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CCCCCC.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])O[H])C)CCCCCC>>C(C(O[C:20](=[O:10])O[H])CCCCCC)([O-:21])C 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CC)[H])[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)[H])CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([Na])C(CC)C([H])=C1O>>[O:10]([Na])C(CC)/C([H])=C([C:20](OC)=[O:21])/O 21=20;20,10=10"
"[H][O:10]C([H])C(CC)[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]CC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])CC)C1=CC=CC=C1>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7 21=20;20,10=10"
"CC[O:10][H].C[O+:21]=[C:20]([S]CC)[S]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21]C)([S]CC)[S]CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21][H])([O][H])[S]C.[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([O][H])[S]C 21=20;20,10=10"
"[O-:10]C([H])C(O)C([C:20]([H])=[O:21])O>>[O-:21][C:20]1([H])[O:10]C([H])C(O)C1O 10=20;20,21=21"
